US07713994B2
6,7-Dimethoxyisoquinoline-1,3(2H,4H)-dione
A solution of 8.2 g (34.1 mmol) of 2-carboxy-4,5-dimethoxybenzeneacetic acid (Tetrahedron 1975, 31, 2607) in 17 ml of conc NH4OH is evaporated to dryness. This operation is repeated. The resulting tan solid ammonium salt is suspended in 34 ml of 1,2-dichlorobenzene. The stirred mixture is boiled in an oil bath at 210° while collecting some distillate during 90 m. The cooled mixture is stirred in hexane and H2O, and the resulting solid is collected by filtration. The white solid is stirred in satd NaHCO3 for 15 m, filtered, washed with H2O, and dried to give 3.45 g (46%), mp 234-238°; MS (ES−) m/z 220.1 (M−H)−1.

reactant | 2-carboxy-4,5-dimethoxybenzeneacetic acid | 34.1 mmol, 8.2 g | C(=O)(O)C1=C(C=C(C(=C1)OC)OC)CC(=O)O | C11H12O6
reactant | NH4OH | 17 ml | [NH4+].[OH-]
solvent | 1,2-dichlorobenzene | 34 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6,7-Dimethoxyisoquinoline-1,3(2H,4H)-dione | COC=1C=C2CC(NC(C2=CC1OC)=O)=O | C11H11NO4
